US07977340B2
Step 8. 1-(5,7-Di-pyrazin-2-yl-benzothiazol-2-yl)-3-ethyl-urea [Example 10]
To a solution of 1-(5,7-diiodo-benzothiazol-2-yl)-3-ethyl-urea (0.50 g, 1.0 mmol) in DMF (5.0 mL) was added 2-tributylstannyl-pyrazine (0.78 g, 2.0 mmol) under nitrogen atmosphere at room temperature. The reaction mixture was degassed for half an hour followed by the addition of tetrakis(triphenylphosphine)palladium(0) (0.18 g, 0.10 mmol). The reaction mixture was again degassed for half an hour and then heated at 120° C. for 2 h under nitrogen atmosphere. After the completion of the reaction (TLC monitoring), DMF was distilled off, added water and extracted with ethyl acetate (×3). The combined organic layer was dried over anhydrous Na2SO4, and evaporated to dryness under reduced pressure. The compound was purified by chromatography on silica (230-400 M) using ethyl acetate/Methanol) (95:5) to provide the title compound as off white solid (0.025 g, 6.5%).

reactant | 1-(5,7-diiodo-benzothiazol-2-yl)-3-ethyl-urea | 1.0 mmol, 0.50 g | IC=1C=C(C2=C(N=C(S2)NC(=O)NCC)C1)I | C10H9I2N3OS
reactant | 2-tributylstannyl-pyrazine | 2.0 mmol, 0.78 g | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 mmol, 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(5,7-Di-pyrazin-2-yl-benzothiazol-2-yl)-3-ethyl-urea | N1=C(C=NC=C1)C=1C=C(C2=C(N=C(S2)NC(=O)NCC)C1)C1=NC=CN=C1 | C18H15N7OS
